US05798352
4-Methyl-1,2,3,6-tetrahydropyridine-2(R)-carboxylic acid ethyl ester hydrochloride
A stirred solution of the above intermediate (13.56 g, 49.7 mmol) in toluene (150 ml), under nitrogen, was heated under reflux for 2 hours, using a Dean-Stark trap. 1,8-Bis(dimethylamino)naphthalene (1.08 g, 5.0 mmol) was then added, heating continued for a further 1 hour, the reaction mixture allowed to cool and the Dean-Stark trap removed. After the addition of 1-chloroethyl chloroformate (10.7 ml, 14.2 g, 99.5 mmol), the reaction mixture was stirred under reflux for 16 hours, allowed to cool, treated with absolute ethanol (80 ml), stirred under reflux for 2 hours more and evaporated under reduced pressure. The residue was partitioned between ethyl acetate (100 ml) and 1M hydrochloric acid (50 ml), then the aqueous phase separated, neutralised with solid sodium bicarbonate and extracted with dichloromethane (3×200 ml). Evaporation under reduced pressure of the dried (MgSO4), combined extracts provided a brown residue which was purified by chromatography on silica gel, using a 0-5% methanol in dichloromethane elution gradient, and then converted to the required hydrochloride salt using excess ethereal hydrogen chloride. The product was further purified by dissolution in dichloromethane (20 ml), filtration (to remove residual silica gel), dilution of the filtrate with ether (200 ml), filtration, washing of the precipitate with ether and drying in vacuo. A sample of this purified product (5.77 g) was crystallised from a mixture of ether and ethanol to afford the title compound as white crystals, m.p. 110°-111° C. Rf 0.35 (SS 3).

reactant | 1,8-Bis(dimethylamino)naphthalene | 5.0 mmol, 1.08 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | 1-chloroethyl chloroformate | 99.5 mmol, 10.7 ml, 14.2 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | ethanol | 80 ml | C(C)O | C2H6O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Methyl-1,2,3,6-tetrahydropyridine-2(R)-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)[C@@H]1NCC=C(C1)C | InChI=1S/C9H15NO2.ClH/c1-3-12-9(11)8-6-7(2)4-5-10-8;/h4,8,10H,3,5-6H2,1-2H3;1H/t8-;/m1./s1
